US06015569
(a) Synthesis of 4-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylthio)benzoyl chloride
A solution of 1.4 g (4 mmol) of 4-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylthio)benzoic acid in 100 ml of anhydrous dichloromethane was introduced into a round-bottomed flask, 900 μl (4.4 mmol) of dicyclohexylamine were added and the mixture was stirred for one hour. Next, 320 μl (4.4 mmol) of thionyl chloride were added and the mixture was stirred for one hour. The reaction medium was evaporated to dryness, taken up in anhydrous ethyl ether, the dicyclohexylamine salt filtered off and the filtrate evaporated. 1.5 g (100%) of the crude acid chloride was recovered which was used as such in the continuation of the synthesis to follow.

reactant | 4-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylthio)benzoic acid | 4 mmol, 1.4 g | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)SC1=CC=C(C(=O)O)C=C1 | C22H26O2S
reactant | dicyclohexylamine | 4.4 mmol, 900 μl | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | thionyl chloride | 4.4 mmol, 320 μl | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylthio)benzoyl chloride | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)SC1=CC=C(C(=O)Cl)C=C1 | C22H25ClOS
